### ISSUE TITLE
`rw` duplicates goals

### ISSUE THREAD

**Issue by eric-wieser** [leanprover/lean4#6407]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `rw` tactic sometimes duplicates the same MVarId in the list of goals

### Context

[Broader context that the issue occurred in. If there was any prior discussion on [the Lean Zulip](https://leanprover.zulipchat.com), link it here as well.]

### Steps to Reproduce

Run
```
theorem add_eq_of_eq_sub {a b c : Int} (h : a = c - b) : a + b = c := sorry

theorem duplicate_goal : ∃ a b : Int, a + b = 1 := by
  refine ⟨?_, 1, ?_⟩
  rotate_left
  rw [add_eq_of_eq_sub]
  -- three goals
  sorry
  -- two goals
  sorry
  -- zero goals
```
**Expected behavior:** There should be two goals after the `rw`

**Actual behavior:** The goal state after the `rw` is
```
case refine_2
⊢ ?refine_1 = 1 - 1
case refine_1
⊢ Int
case refine_1
⊢ Int
```

### Versions

4.15.0-rc1

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by keithadler** [comment]
No longer reproduces on `4.35.0-nightly-2026-09-04`. There is no duplicated `MVarId`.

Since the bare repro now produces no output at all — which is ambiguous — I measured the goal list directly with a small elaborator:

```lean
open Lean Elab Tactic in
elab "count_goals" : tactic => do
  logInfo s!"goals: {(← getGoals).length}"

theorem duplicate_goal : ∃ a : Int, a = 1 := by
  refine ⟨?_, ?_⟩
  count_goals          -- goals: 2
  rotate_left
  rw [eq_comm]
  count_goals          -- goals: 0
```

The goal count goes 2 → 0 and the theorem closes outright; the reported third goal does not appear.

Suggest closing.

Triage assisted by Claude; repros run and checked manually.
